US06544982B1
Step 2: 2-[Naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amino]ethanol
[Naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amino]-acetic acid ethyl ester (305 mg, 0.789 mmol) was dissolved in tetrahydrofuran (THF, 2 ml) and while stirring under argon, treated with a 1.0M ithium aluminum hydride in di ethyl ether solution (1.58 ml, 1.58 mmol) and stirred at rt for 1.5 hr. The reaction was diluted with THF (2 ml), followed by diethyl ether (10 ml), and water was added slowly dropwise to give a filterable solid. The mixture was filtered through super cel, the filter cake washed well with a THF/diethyl ether (1/4), and the filtrate stripped to dryness in vacuo to give a crude oil (200 mg). Flash chromatography on silica gel (10 to 15% diethyl ether in methylene chloride) gave the product as a white foam (179 mg, 65.9%).

reactant | [Naphthalen-1-ylmethyl-(3-phenyl-isoxazol-5-yl)-amino]-acetic acid ethyl ester | 0.789 mmol, 305 mg | C(C)OC(CN(C1=CC(=NO1)C1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O | C24H22N2O3
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
reactant | di ethyl ether | 1.58 mmol, 1.58 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | THF | 2 ml | O1CCCC1 | C4H8O
product | 2-[Naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amino]ethanol | 179 mg, 65.9% | C1(=CC=CC2=CC=CC=C12)CN(CCO)C1=CC(=NO1)C1=CC=CC=C1 | C22H20N2O2
